US04946863
5-Hydroxy-2,3-dihydro-N,N-dipropyl-3-benzothiophencarboxamide
11.6 g of 5-amino-2,3-dihydro-N,N-dipropyl-3-benzothiophencarboxamide were dissolved in a mixture of 4 ml of conc. sulphuric acid and 40 ml of water. 3.1 g of sodium nitrite dissolved in 10 ml of water were added dropwise below 10° C. with stirring. After addition the mixture was stirred for further 0.5 hours. The diazonium solution was then added carefully to a pre-heated solution of 50 ml of conc. sulphuric acid in 40 ml of water at 115°-120° C. The resulting mixture was poured onto ice and subsequently extracted with dichloromethane. Yield of the title compound as a semicrystalline product: 8.7 g.

reactant | 5-amino-2,3-dihydro-N,N-dipropyl-3-benzothiophencarboxamide | 11.6 g | NC=1C=CC2=C(C(CS2)C(=O)N(CCC)CCC)C1 | C15H22N2OS
reactant | sodium nitrite | 3.1 g | N(=O)[O-].[Na+]
solvent | sulphuric acid | 4 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 40 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | water | 40 ml | O | H2O
solvent | sulphuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | 5-Hydroxy-2,3-dihydro-N,N-dipropyl-3-benzothiophencarboxamide | OC=1C=CC2=C(C(CS2)C(=O)N(CCC)CCC)C1 | C15H21NO2S
